US08541588B2
3-cyano-4-[2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethoxy)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
The title compound was prepared from 3-cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethoxy)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 497) and 1-methyl-1H-pyrazole-5-boronic acid pinacol ester using Method E above. Purification afforded the title compound.

reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethoxy)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)OC(F)(F)F)I)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C25H18F3IN4O6S2
reactant | 1-methyl-1H-pyrazole-5-boronic acid pinacol ester | CN1N=CC=C1B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
product | 3-cyano-4-[2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethoxy)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)OC(F)(F)F)C1=CC=NN1C)S(=O)(=O)NC1=NC=NS1 | C20H13F3N6O4S2
